Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
metastatic melanoma
 
Major Surgical or Invasive Procedure:
Right axillary dissection
 
History of Present Illness:
___ woman currently living with her grandmother ___ 
in ___, who was present today.  ___ father ___, who 
apparently lives
nearby, was also present.
___ has no previous dermatologic history.  She states that she 
became
aware of a right abdominal wall pigmented lesion about five
months ago and showed me a picture showing a well-defined 
papular
dark lesion.  She does not believe that there was anything there
earlier.  Over time, the lesion became more prominent and
pruritic, although there has been no bleeding.  ___ did admit
to considerable sun exposure in the past, including weekly
tanning beds at age ___.
Apparently,
she was not thought to have any other worrisome lesions.  A 
shave
biopsy was performed of the right abdomen.  The supplied
photograph looked very similar to the one that ___ had taken
weeks earlier, although more prominent.
The pathology of the biopsy as reviewed today with our dedicated
dermatopathology group shows an invasive melanoma with a minimal
thickness of 1.85 mm, extending to ___ level IV with clearcut
lymphovascular invasion and 6 mitoses per mm2.  There was no
associated ulceration or perineural invasion.  The deep margin
was positive, but this was at the level of a hair follicle.  The
lateral margins were clean.  No precursor lesion was seen. 
Therefore, she has at a minimum a T2a lesion with associated
lymphatic invasion.

 
Past Medical History:
PMH:
Metastatic melanoma
PTSD
Depression
Anxiety
Genital herpes
Hx of chlamydia
Current smoker
Transaminitis

PSH:
Wisdom teeth extraction
Wide excision of abdominal wall melanoma w/ SLNBx (___)
 
Social History:
___
Family History:
family history is significant for what was described as
breast cancer in her paternal great grandmother.  Her 
grandmother
indicated that various remote family members on the paternal 
side
had had a variety of cancers.  Her father has depression and on
your ___ intake form, the patient stated that he had a
history of melanoma.  He denied this.  ___ has two brothers 
and
one sister who are apparently well.  She does not believe that
her mother has any chronic medical issues.

 
Physical Exam:
Physical Exam:
Vitals: T:98 ___  18  100%2L 
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses
Ext: No ___ edema, ___ warm and well perfused, incision covered by 
dressing, non oozing, non soaking. 
 
Pertinent Results:
none
 
Brief Hospital Course:
The patient admitted to the hospital on ___ . Pt was taken 
to the operating room for Right axillary dissection. There were 
no adverse events in the operating room; please see the 
operative note for details.  Pt was extubated, taken to the PACU 
until stable, then transferred to the ward for observation.

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was managed with PO oxycodone and Tylenol. 


CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.

Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization.

GI/GU/FEN: The patient diet was advanced sequentially to a 
Regular diet, which was well tolerated. Patient's intake and 
output were closely monitored. JP drain in axilla has been 
closely monitoring for quality and quantity in which there was 
no bleeding and the output within acceptable range. 

ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.

HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.

Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
 
Medications on Admission:
Bupropion 150"
Prozac 60'
?Valacyclovir
Fe sulfate 325'
Vitamin D 3000'
Klonopin 1" PRN anxiety
Ibuprofen PRN
Vitamin B12
Biotin
Omega 3/epa/fish oil
 
Discharge Medications:
1. BuPROPion (Sustained Release) 150 mg PO BID 
2. Ferrous Sulfate 325 mg PO DAILY 
3. FLUoxetine 60 mg PO DAILY 
4. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0
5. Vitamin D 3000 UNIT PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Metastatic melanoma 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___,

You were admitted to the hospital on ___ and underwent Right 
axillary dissection. You have been recovering well, and ready to 
go home. The following is a summary of discharge instructions. 

MEDICATIONS 
1. Please resume all home medications, unless specifically 
advised not to take a particular medication. Please take any new 
medications as prescribed.
2. Please take all pain medications as prescribed, as needed. 
You may not drive or operate heavy machinery while taking 
narcotic pain medications. You may also take acetaminophen 
(Tylenol) as directed, but do not exceed 4000 mg in one day. 
Please note that Percocet and Vicodin have Tylenol as an active 
ingredient, so do not take these medications with additional 
Tylenol. 
3. An over-the-counter stool softener such as Colace (100mg 
twice daily) is recommended to prevent constipation while on 
narcotic pain medication.

WOUND CARE
1. Monitor the wounds for signs of infection, including redness 
that is spreading or increased drainage from wounds. Please call 
Dr. ___ if you experience any of these symptoms.
2. Please do not remove or change your surgical dressing.

ACTIVITY
1. No strenuous activity until cleared by Dr. ___.
2. No showering until cleared by Dr. ___.

Call the office IMMEDIATELY if you have any of the following: 
1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s). 
2. A large amount of bleeding from the incision(s) or drain(s). 
3. Fever greater than 101.5 F 
4. Severe pain NOT relieved by your medication. 

Return to the ER if: 
* If you are vomiting and cannot keep in fluids or your 
medications. 
* If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you. 
* Any serious change in your symptoms, or any new symptoms that 
concern you. 
 
Followup Instructions:
___